US05318965
Step 3. Ethyl 4-(3-acetamidopyrrolidin-1-yl)-2,3,5,6-tetrafluorobenzoylacetate
To 2.62 g (20.4 mmol) of 3-acetamidopyrrolidine dissolved in 50 mL of pyridine and cooled to 0° C. was added 2.06 g (20.4 mmol) of triethylamine and 5.24 g (18.6 mmol) of ethyl 2,3,4,5,6-pentafluorobenzoylacetate, from step 2 above. The solution was stirred at 0° C. for 1 hour, then at room temperature overnight. The solvent was removed by evaporation under vacuum and the residue was dissolved in chlorform, which was washed with 0.5N HCl and 5% potassium carbonate solution. The organic layer was dried over magnesium sulfate, filtered, and evaporated. The residue was further dried by adding and distilling off ethylene dichloride, chloroform and methylene, followed by further drying under vacuum. The crystalline residue was washed with hexane and dried to afford 6.8 g of the title compound as a tan solid, mp 90°-92° C. MS M/Z: 391 (M+H). IR (CDCl3): 1635, 1680, 1740 cm-1. NMR (CDCl3) d: 1.26 (m, 3H), 2.00 (m, 5H), 2.22 (m, 2H), 3.54 (m,1H), 3.77 (m, 2H), 3.85 (m, 1H), 3.98 (m, 1H), 4.22 (m, 2H), 5.75 (m, 1H). Analysis calculated for C17H18F4N2O4 : C, 52.31; H, 4.65; N, 7.18. Found: C, 52.47; H, 4.67; N, 7.33.

reactant | 3-acetamidopyrrolidine | 20.4 mmol, 2.62 g | C(C)(=O)NC1CNCC1 | C6H12N2O
reactant | triethylamine | 20.4 mmol, 2.06 g | C(C)N(CC)CC | C6H15N
reactant | ethyl 2,3,4,5,6-pentafluorobenzoylacetate | 18.6 mmol, 5.24 g | FC1=C(C(=O)CC(=O)OCC)C(=C(C(=C1F)F)F)F | C11H7F5O3
solvent | pyridine | 50 mL | N1=CC=CC=C1 | C5H5N
product | Ethyl 4-(3-acetamidopyrrolidin-1-yl)-2,3,5,6-tetrafluorobenzoylacetate | 6.8 g | C(C)(=O)NC1CN(CC1)C1=C(C(=C(C(=O)CC(=O)OCC)C(=C1F)F)F)F | C17H18F4N2O4
